US04625025
Into 40 ml of methanol were added 5.0 g of 1-methylamino-3-propanethiol and 1.0 g g of caustic soda, followed by stirring, to be completely dissolved therein. Then, the mixture was cooled to 0° C. While stirring the solution, a solution of 2.2 g of caustic soda dissolved in 25 ml of methanol and a solution of 3.5 g of 2,2,2-trichloro-1-nitroethane diluted in 20 ml of methanol were added at the same time dropwise slowly over 50 minutes, and the reaction was carried out for one hour. The reaction was exothermic and the liquid temperature was maintained at lower than 10° C. (about 8° C.). After the reaction, the reaction mixture was neutralized to pH 7 with 3 N aqueous hydrochloric acid, and then with addition of 60 ml of water, extraction with 50 ml of methylene chloride was repeated four times. The extracts were concentrated to give 3.27 g of tetrahydro-3-methyl-2-(nitromethylene)- 1,3-thiazine (yield: 94%).

reactant | 1-methylamino-3-propanethiol | 5.0 g | CNCCCS | C4H11NS
reactant | caustic soda | [OH-].[Na+]
reactant | caustic soda | 2.2 g | [OH-].[Na+]
reactant | 2,2,2-trichloro-1-nitroethane | 3.5 g | ClC(C[N+](=O)[O-])(Cl)Cl | C2H2Cl3NO2
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | tetrahydro-3-methyl-2-(nitromethylene)- 1,3-thiazine | 3.27 g, yield: 94% | CN1C(SCCC1)=C[N+](=O)[O-] | C6H10N2O2S
